US08022222B2
Using the method of Example 3, Step A, thiophenol (1.04 g, 9.46 mmol), 60% sodium hydride in mineral oil (378 mg, 9.46 mmol), and 2-chloro-4-nitropyridine (1.50 g, 9.46 mmol) were reacted to provide 2-chloro-4-(phenylthio)pyridine (1.97 g, 94% yield) as an oil. 1H NMR (CDCl3) δ 8.11 (d, 1H), 7.45-7.58 (m, 5H), 6.90 (s, 1H), 6.85 (d, 1H).

reactant | thiophenol | 9.46 mmol, 1.04 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 9.46 mmol, 1.50 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(phenylthio)pyridine | 1.97 g, 94% yield | ClC1=NC=CC(=C1)SC1=CC=CC=C1 | C11H8ClNS
